US06214826B1
7-Chloro-4-hydroxy-2-(2′-methyl-4′-methoxyphenyl)-5,10-dihydro-2H-pyridazino[4,5-b]quinoline-1-one.
7-Chloro-4-hydroxy-2-(4-methoxy-2-methylphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione (5.0 mL, 13.1 mmol) was suspended in tetrahydrofuran (170 mL) under nitrogen cooled to 0° C. and treated with trifluoroacetic acid (18 mL, 235 mmol). Over a 10 minute period, the reaction mixture was then treated with NaBH4 (1.973 g, 52.2 mmol). The reaction mixture was stirred at 0° C. for 6 hours and then was stored in a freezer overnight. The reaction mixture was then treated with additional NaBH4 (approximately 1.0 g) and stirred at 0° C. for 2 hours. The reaction mixture was poured onto water (500 mL) and extracted with ethyl acetate (2×200 mL). The ethyl acetate extracts were combined and then concentrated in vacuo. The residue was poured onto ether (400 mL) and the solid which formed was collected by filtration to afford crude product. The crude was recrystallized from methanol to afford 1.91 g of the title compound as an off-white solid, mp 264-266° C.

reactant | 7-Chloro-4-hydroxy-2-(4-methoxy-2-methylphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione | 13.1 mmol, 5.0 mL | ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)C3=C(C=C(C=C3)OC)C)O)=O | C19H14ClN3O4
reactant | trifluoroacetic acid | 235 mmol, 18 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaBH4 | 52.2 mmol, 1.973 g | [BH4-].[Na+]
reactant | NaBH4 | approximately 1.0 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
product | 7-Chloro-4-hydroxy-2-(2′-methyl-4′-methoxyphenyl)-5,10-dihydro-2H-pyridazino[4,5-b]quinoline-1-one | 1.91 g | ClC=1C=CC=2CC3=C(NC2C1)C(=NN(C3=O)C3=C(C=C(C=C3)OC)C)O | C19H16ClN3O3
